US07538114B2
To tert-butyl 2-((R)-4-(cyclopropyl(3-(trifluoromethyl)phenyl)methyl)-2-methylpiperazin-1-yl)acetate (350 mg, 0.849 mmol) in 150 mL flask was added 3 mL of 37% HCl and the resulting solution was stirred at 50° C. for 3 h. After HPLC-MS showed complete conversion, the solvent was evaporated to dryness under high vacuum to give 2-((R)-4-(cyclopropyl(3-(trifluoromethyl)phenyl)methyl)-2-methylpiperazin-1-yl)acetic acid dihydrochloride (290 mg, 79.6% yield) as a white solid. MS (ESI, pos. ion) m/z: 357 (M+1).

reactant | tert-butyl 2-((R)-4-(cyclopropyl(3-(trifluoromethyl)phenyl)methyl)-2-methylpiperazin-1-yl)acetate | 0.849 mmol, 350 mg | C1(CC1)C(N1C[C@H](N(CC1)CC(=O)OC(C)(C)C)C)C1=CC(=CC=C1)C(F)(F)F | C22H31F3N2O2
reactant | HCl | 3 mL | Cl | ClH
product | 2-((R)-4-(cyclopropyl(3-(trifluoromethyl)phenyl)methyl)-2-methylpiperazin-1-yl)acetic acid dihydrochloride | 290 mg, 79.6% yield | Cl.Cl.C1(CC1)C(N1C[C@H](N(CC1)CC(=O)O)C)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C18H23F3N2O2.2ClH/c1-12-10-23(8-7-22(12)11-16(24)25)17(13-5-6-13)14-3-2-4-15(9-14)18(19,20)21;;/h2-4,9,12-13,17H,5-8,10-11H2,1H3,(H,24,25);2*1H/t12-,17?;;/m1../s1
